US05155122
1,1'-Carbonyl diimidazole (0.8 g, 0.005 mole) is added in one portion to a stirred 0° C. solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid hydrazide (1.0 g, 0.004 mole) and triethylamine (0.6 ml, 0.004 mole) in tetrahydrofuran (12 ml). After 18 hours the mixture is concentrated in vacuo and the residue dissolved in ether. The solution is washed with aqueous 2M HC, saturated aqueous NaHCO3, saturated aqueous NaCl, and dried over MgSO4. Filtered and concentrated in vacuo to obtain a residue which is purified by flash chromatography using 10% ethyl acetate/hexane eluent. Recrystallize from ethyl acetate/hexane to obtain 0.6 g (1.1 g theor., 55%) 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-oxadiazol-2(3H)-one, mp 246° C.

reactant | 1,1'-Carbonyl diimidazole | 0.005 mole, 0.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid hydrazide | 0.004 mole, 1.0 g | CC(C)(C)C=1C=C(C(=O)NN)C=C(C1O)C(C)(C)C | C15H24N2O2
reactant | triethylamine | 0.004 mole, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-oxadiazol-2(3H)-one | 0.6 g, 55% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC(O1)=O | C16H22N2O3
